US09107415B2
Synthesis of 6-[[3-(2,6-dimethyl-4-prop-1-ynyl-phenyl)-4-methoxy-2-oxo-cyclopent-3-en-1-yl]methyl]-2-(methylamino)pyridine-3-carbonitrile
A microwave vial was charged with 6-[[3-(4-bromo-2,6-dimethyl-phenyl)-4-methoxy-2-oxo-cyclopent-3-en-1-yl]methyl]-2-(methylamino)pyridine-3-carbonitrile (150 mg, 0.34 mmol), caesium fluoride (CsF, 104 mg, 0.68 mmol), copper(I) iodide (CuI, 13 mg, 0.068 mmol), dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (37 mg, 0.05 mmol), tributyl(prop-1-ynyl)stannane (125 mg, 0.41 mmol) and N,N-dimethylformamide (1.5 ml), sealed and heated at 120°C. under microwave irradiation for 60 minutes. Further caesium fluoride (52 mg, 0.34 mmol), copper(I) iodide (6.5 mg, 0.034 mmol), dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (18.5 mg, 0.025 mmol) and tributyl(prop-1-ynyl)stannane (63 mg, 0.21 mmol) were added and the reaction heated at 120 C under microwave irradiation for a further 30 minutes. The reaction was allowed to cool to room temperature, diluted with water (10 ml) and diethyl ether (10 ml) and filtered through Celite. The filtrate phases were separated and the aqueous phase extracted with further diethyl ether (2×10 ml). The combined organic extracts were washed with brine (10 ml), dried over MgSO4, filtered and evaporated to dryness under reduced pressure. The crude product was dissolved in EtOAc, absorbed onto silica and purified by flash chromatography on silica using an EtOAc/isohexane gradient to give the desired product (32 mg, 24%) as a yellow gum. 1H NMR (400 MHz, CDCl3) 7.45 (d, 1H), 7.05 (2×s, 2×1H), 6.45 (d, 1H), 5.20 (br, 1H), 3.50 (s, 3H), 3.50-3.40 (m, 1H), 3.20-3.15 (m, 1H), 3.05 (d, 3H), 2.80-2.05 (m, 3H), 2.15 (s, 3H), 2.05 (s, 3H), 1.95 (s, 3H).

reactant | 6-[[3-(4-bromo-2,6-dimethyl-phenyl)-4-methoxy-2-oxo-cyclopent-3-en-1-yl]methyl]-2-(methylamino)pyridine-3-carbonitrile | 0.34 mmol, 150 mg | BrC1=CC(=C(C(=C1)C)C=1C(C(CC1OC)CC1=CC=C(C(=N1)NC)C#N)=O)C | C22H22BrN3O2
reactant | caesium fluoride | 0.68 mmol, 104 mg | [F-].[Cs+]
reactant | tributyl(prop-1-ynyl)stannane | 0.41 mmol, 125 mg | C(CCC)[Sn](C#CC)(CCCC)CCCC
reactant | N,N-dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
reactant | caesium fluoride | 0.34 mmol, 52 mg | [F-].[Cs+]
reactant | tributyl(prop-1-ynyl)stannane | 0.21 mmol, 63 mg | C(CCC)[Sn](C#CC)(CCCC)CCCC
solvent | water | 10 ml | O | H2O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
catalyst | copper(I) iodide | 0.068 mmol, 13 mg | [Cu]I
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 0.05 mmol, 37 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
catalyst | copper(I) iodide | 0.034 mmol, 6.5 mg | [Cu]I
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 0.025 mmol, 18.5 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | 6-[[3-(2,6-dimethyl-4-prop-1-ynyl-phenyl)-4-methoxy-2-oxo-cyclopent-3-en-1-yl]methyl]-2-(methylamino)pyridine-3-carbonitrile | 32 mg, 24% | CC1=C(C(=CC(=C1)C#CC)C)C=1C(C(CC1OC)CC1=CC=C(C(=N1)NC)C#N)=O | C25H25N3O2
